US05462952
5-[2-[(2,6-Dichloro-3-methylphenyl)amino]phenyl]-1,3,4-oxadiazol-2(3H)-thione
2-[(2,6-Dichloro-3-methylphenyl)amino]-benzoic acid, hydrazide (1.172 g, 3.78 mmol) is dissolved in 20 ml of methanol, and the solution is cooled to 0° C. Carbon disulfide (520 μl, 8.82 mmol) is added, followed by potassium hydroxide (266.0 mg, 4.03 mmol). The solution is heated at reflux for seven hours and allowed to cool to room temperature overnight. The solution is concentrated in vacuo and the residue dissolved in water. The aqueous solution is acidified with 1N hydrochloric acid and the resulting solids extracted into a 1:1 mixture of ether and ethyl acetate. The organic layer is dried over magnesium sulfate, filtered and concentrated in vacuo. The residue is chromatographed, eluting with hexane:ethyl acetate (2:1) providing 864.0 mg (65%) of product, mp 257°-259° C.

reactant | 2-[(2,6-Dichloro-3-methylphenyl)amino]-benzoic acid, hydrazide | 3.78 mmol, 1.172 g | ClC1=C(C(=CC=C1C)Cl)NC1=C(C(=O)NN)C=CC=C1 | C14H13Cl2N3O
reactant | Carbon disulfide | 8.82 mmol, 520 μl | C(=S)=S | CS2
reactant | potassium hydroxide | 4.03 mmol, 266.0 mg | [OH-].[K+]
solvent | methanol | 20 ml | CO | CH4O
product | 5-[2-[(2,6-Dichloro-3-methylphenyl)amino]phenyl]-1,3,4-oxadiazol-2(3H)-thione | 864.0 mg, 65% | ClC1=C(C(=CC=C1C)Cl)NC1=C(C=CC=C1)C1=NNC(O1)=S | C15H11Cl2N3OS
